US05223510
d) 3-(4-hydroxy benzoyl) 2-ethyl 5-nitro benzothiophene
A mixture of 7.7 g (0.0225 mole) of 3-(4-methoxy benzoyl) 2-ethyl 5-nitro benzothiophene and 35 g of pyridine hydrochloride are heated at 185° C. for 2.5 h. The mixture is cooled and taken up in 100 ml of water. The product is filtered off and washed on the filter with water and dried in a vacuum at a temperature of 50° C. After purification by chromatography on a column of silica (eluant: heptane/ethyl acetate 6/4), 5.6 g of 3-(4-hydroxy benzoyl) 2-ethyl 5-nitro benzothiophene are obtained.

reactant | 3-(4-methoxy benzoyl) 2-ethyl 5-nitro benzothiophene | 0.0225 mole, 7.7 g | COC1=CC=C(C(=O)C2=C(SC3=C2C=C(C=C3)[N+](=O)[O-])CC)C=C1 | C18H15NO4S
reactant | pyridine hydrochloride | 35 g | Cl.N1=CC=CC=C1
solvent | water | 100 ml | O | H2O
product | 3-(4-hydroxy benzoyl) 2-ethyl 5-nitro benzothiophene | OC1=CC=C(C(=O)C2=C(SC3=C2C=C(C=C3)[N+](=O)[O-])CC)C=C1 | C17H13NO4S
